US08476449B2
Separately, glycine ethyl ester hydrochloride (140 mg, 1 mmol) and bis(carboxymethyl) trithiocarbonate (224 mg, 1 mmol) were dissolved in 2-propanol (6 mL), triethylamine (0.6 mL) was added thereto, and the mixture was heated to reflux for 1 hour while stirring. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (1/1 (volume ratio)) as an eluent, to give ethyl-2-(4-oxo-2-thioxothiazolidin-3-yl)acetate in a yield of 177 mg (yield 80.8%).

reactant | glycine ethyl ester hydrochloride | 1 mmol, 140 mg | Cl.C(C)OC(CN)=O
reactant | bis(carboxymethyl) trithiocarbonate | 1 mmol, 224 mg | C(SCC(=O)O)(SCC(=O)O)=S | C5H6O4S3
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | 2-propanol | 6 mL | CC(C)O | C3H8O
product | ethyl-2-(4-oxo-2-thioxothiazolidin-3-yl)acetate | yield 80.8% | C(C)OC(CN1C(SCC1=O)=S)=O | C7H9NO3S2
